US09445596B2
Next, a solution of indole-3-carbonyl chloride was prepared. A well-stirred suspension of indole-3-carboxylic acid (67.7 mg, 0.42 mmol) in dry DCM (2 ml) containing a small amount of dimethylformamide (DMF) (20 μL) was treated with oxalyl chloride (0.84 mmol, 107 mg, 72 μL) at 0° C. Following addition to the oxalyl chloride, the mixture was stirred for 20 minutes at 23° C., producing a clear, slightly yellow solution. This solution was evaporated to dryness in vacuo at 0.1 Torr to ensure removal of excess oxalyl chloride, and was subsequently re-dissolved in 2 ml of dry DCM.

reactant | indole-3-carboxylic acid | 0.42 mmol, 67.7 mg | N1C=C(C2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | dimethylformamide | 20 μL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 0.84 mmol, 72 μL, 107 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
product | indole-3-carbonyl chloride | N1C=C(C2=CC=CC=C12)C(=O)Cl | C9H6ClNO
